US08349880B2
9-(4-bromophenyl)-N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[1,5-a]azepin-2-amine
A solution of 5-(1-(4-bromophenyl)-5-chloropentyl)-N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-1H-1,2,4-triazol-3-amine (2.5 g, 4.54 mmol), sodium iodide (3.40 g, 22.7 mmol), and diisopropylethylamine (0.793 mL, 4.54 mmol) in acetone (10 mL) was heated in a sealed vessel at 100° C. for 12 h. The reaction was concentrated in vacuo. The crude product was purified using silica gel column chromatography (50% EtOAc/chloroform) to afford 475 mg (19% yield) of the titled compound as an off-white solid. LC-MS (M+H)+ 515.1. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 7.45-7.47 (m, 3 H), 7.40 (d, J=2.1 Hz, 1 H), 7.04-7.10 (m, 3 H), 7.00 (d, J=1.5 Hz, 1 H), 6.79 (dd, J=8.5, 2.4 Hz, 1 H), 6.64 (s, 1 H), 4.15-4.27 (m, 3 H), 3.76 (s, 3 H), 2.14-2.21 (m, 1 H), 1.91-2.10 (m, 3 H), 1.80-1.91 (m, 2 H).

reactant | 5-(1-(4-bromophenyl)-5-chloropentyl)-N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-1H-1,2,4-triazol-3-amine | 4.54 mmol, 2.5 g | BrC1=CC=C(C=C1)C(CCCCCl)C1=NC(=NN1)NC1=CC(=C(C=C1)N1C=NC(=C1)Cl)OC | C23H23BrCl2N6O
reactant | sodium iodide | 22.7 mmol, 3.40 g | [I-].[Na+]
reactant | diisopropylethylamine | 4.54 mmol, 0.793 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 9-(4-bromophenyl)-N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[1,5-a]azepin-2-amine | 475 mg, 19% yield | BrC1=CC=C(C=C1)C1C=2N(CCCC1)N=C(N2)NC2=CC(=C(C=C2)N2C=NC(=C2)Cl)OC | C23H22BrClN6O
